US04762844
A mixture of 30 g of ethyl 1-cyclopropyl-6,8-difluoro-7-methyl-1,4-dihydro-4-oxo-3-quinolinecarboxylate, 210 ml of glacial acetic acid, 160 ml of water and 23.5 ml of concentrated sulphuric acid is heated under reflux for 2 hours. The hot suspension is then poured onto ice and the precipitate is filtered off with suction, rinsed thoroughly with water and dried in vacuo at 100° C. 25.9 g of pure 1-cyclopropyl-6,8-difluoro-7-methyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid of melting point 227°-229° C. are obtained in this manner.

reactant | ethyl 1-cyclopropyl-6,8-difluoro-7-methyl-1,4-dihydro-4-oxo-3-quinolinecarboxylate | 30 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)C)F)=O)C(=O)OCC | C16H15F2NO3
reactant | acetic acid | 210 ml | C(C)(=O)O | C2H4O2
reactant | sulphuric acid | 23.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 160 ml | O | H2O
product | 1-cyclopropyl-6,8-difluoro-7-methyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 25.9 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)C)F)=O)C(=O)O | C14H11F2NO3
